US08791134B2
2-Methyl-2-((4-nitrosotetrahydro-2H-pyran-4-yloxy)carbonyl)propane-1,3-diyl diacetate was prepared from tetrahydro-pyran-4-one oxime and bis(3-acetoxy-2-acetoxymethyl-2-methyl-propionate)iodobenzene (synthesized from iodobenzene diacetate and 3-acetoxy-2-acetoxymethyl-2-methyl-propionic acid which was in turn synthesized using the reported method J. Am. Chem. Soc., 118, 1996, 6388-6395) using conditions of General Method 4. 1H NMR (250 MHz, CHLOROFORM-d) δ 4.32 (4H, s), 3.98-4.17 (2H, m), 3.54-3.74 (2H, m), 2.28-2.46 (2H, m), 2.13 (6H, s), 1.77-1.94 (2H, m), 1.40 (3H, s).

reactant | tetrahydro-pyran-4-one oxime | O1CCC(CC1)=NO | C5H9NO2
reactant | iodobenzene diacetate | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
reactant | 3-acetoxy-2-acetoxymethyl-2-methyl-propionic acid | C(C)(=O)OCC(C(=O)O)(C)COC(C)=O | C9H14O6
product | 2-Methyl-2-((4-nitrosotetrahydro-2H-pyran-4-yloxy)carbonyl)propane-1,3-diyl diacetate | C(C)(=O)OCC(COC(C)=O)(C(=O)OC1(CCOCC1)N=O)C | C14H21NO8
